US07842688B2
b) Benzyl 4-(3-fluoro-4-methoxyphenyl)-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate
Analogously to Method D, 0.050 g of benzyl 4-(3-fluoro-4-methoxyphenyl)-3-hydroxypiperidine-1-carboxylate and 0.042 g of 6-chloromethyl-4-(3-methoxypropyl)-4H-benzo[1,4]oxazin-3-one are reacted. The title compound is obtained as a colourless resin. Rf=0.26 (2:1 EtOAc-heptane); Rt=5.10.

reactant | benzyl 4-(3-fluoro-4-methoxyphenyl)-3-hydroxypiperidine-1-carboxylate | 0.050 g | FC=1C=C(C=CC1OC)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)O | C20H22FNO4
reactant | 6-chloromethyl-4-(3-methoxypropyl)-4H-benzo[1,4]oxazin-3-one | 0.042 g | ClCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C13H16ClNO3
product | Benzyl 4-(3-fluoro-4-methoxyphenyl)-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | FC=1C=C(C=CC1OC)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C33H37FN2O7
